US08168793B2
To a stirred solution of 3,4-dibenzyloxy-5-nitrobenzoic acid (0.5 g, 1.32 mmol) in dimethylformamide (5 mL) at room temperature was added 1,1-carbonyldiimidazole (0.246 g, 1.52 mmol) in one portion. After stirring for one hour, N′-hydroxypyridine-4-carboximidamide (0.208 g, 1.52 mmol) was added in one portion and the resulting mixture was stirred at room temperature overnight. The mixture was then stirred at 110° C. for three hours and then allowed to cool to room temperature. The mixture was poured onto ice-water (100 mL) and extracted with 20% isopropanol/dichloromethane. The organic extracts were washed with water and brine, then dried (Na2SO4), filtered and evaporated to leave a solid residue that was recrystallised from ethanol. 4-[5-(3,4-Bis-benzyloxy-5-nitro-phenyl)-[1,2,4]oxadiazol-3-yl]-pyridine was obtained as a beige solid (0.395 g, 62%).

reactant | 3,4-dibenzyloxy-5-nitrobenzoic acid | 1.32 mmol, 0.5 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-] | C21H17NO6
reactant | N′-hydroxypyridine-4-carboximidamide | 1.52 mmol, 0.208 g | ON=C(N)C1=CC=NC=C1 | C6H7N3O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[5-(3,4-Bis-benzyloxy-5-nitro-phenyl)-[1,2,4]oxadiazol-3-yl]-pyridine | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C1=NC(=NO1)C1=CC=NC=C1 | C27H20N4O5
